US05872118
To a mixture of 3-(2,4-difluorophenyl) propanoic acid (28.7 g, 0.15 mol) and dimethylformamide (5 drops) at ambient temperature was added dropwise oxalyl chloride (50 mL, Aldrich). The mixture was stirred at ambient temperature for 18 h. The excess oxalyl chloride was removed by distillation in vacuo to give 3-(2,4-difluorophenyl)propionyl chloride. A solution of the 3-(2,4-difluorophenyl)propionyl chloride in dichloromethane (300 mL) was added dropwise to a mixture of aluminum chloride (23.4 g, 0.18 mol, Aldrich) in dichloromethane (300 mL) at ice bath temperature. After the addition was completed, the mixture was refluxed for 3.5 h and allowed to come to ambient temperature over-night. The reaction mixture was poured into ice water (I1500 mL), the two phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phase was washed successively with 0.1N aqueous sodium hydroxide and saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo to give 21.7 g of crude 4,6-difluoro-1-indanone. Chromatography on silica gel with hexanes: dichloromethane (3:1) as eluent gave 10.1 g of a light yellow solid. Recrystallization of 0.5 g from acetone: water mixtures gave 0.2 g of 4,6-difluoro-1-indanone as a white solid: mp 97°-99° C.; NMR (CDCl3): d 7.02-7.27 (m, 2H), 3.12 (t, 2H), 2.76 (m, 2H).

reactant | 3-(2,4-difluorophenyl)propionyl chloride | FC1=C(C=CC(=C1)F)CCC(=O)Cl | C9H7ClF2O
reactant | aluminum chloride | 0.18 mol, 23.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4,6-difluoro-1-indanone | 21.7 g | FC1=C2CCC(C2=CC(=C1)F)=O | C9H6F2O
